US04447434
(c) 5,10-dihydro-5-[(1,2,6-trimethyl-1,2,5,6-tetrahydro-4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
Prepared analogously to Example 7(c) from 5,10-dihydro-5-[(2,6-dimethyl-4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one methoiodide and sodium borohydride in methanol in a yield of 25% of theory. After purification by column chromatography on silica gel using dichloromethane/methanol (ratio by volume 9:1) as a eluent and recrystallizing from diisopropylether/methanol, the light beige crystals melted at 124°-125° C.

reactant | 5,10-dihydro-5-[(2,6-dimethyl-4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | CC1=NC(=CC(=C1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2)C | C21H17N3O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | methanol | CO | CH4O
product | 5,10-dihydro-5-[(1,2,6-trimethyl-1,2,5,6-tetrahydro-4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | yield of 25% | CN1C(C=C(CC1C)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2)C | C22H23N3O2
